* This test will use absolute paths to files in a
* subdirectory two levels down.

.DC V1 1 5 1
.PRINT DC V(1) V(2) I(R3)

V1 1 0 1
R1 1 2 1
R3 1 0 {RVAL}

* The absolute path for the files on these two lines will be
* filled in by the .sh file.  The paths will use the Windows
* drive letter and the canonical file separator of C:\
.INC
.LIB

.END
